US08003651B2
HBTU (0.033 g, 0.086 mmol) was added to a solution of (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (0.025 g, 0.086 mmol), (S)-3-(tert-butoxycarbonylamino)-2-(4-chlorophenyl)propanoic acid (0.026 g, 0.086 mmol), and DIEA (0.045 mL, 0.26 mmol) in DCM (1.2 mL). The reaction mixture was stirred at room temperature for 90 minutes. 2M Na2CO3 was added, and the mixture was extracted with DCM. The combined extracts were dried (Na2SO4), filtered, and concentrated. The crude was flashed on Biotage 12S (ca. 100 mL; 4:1 DCM:EA flushed to elute DIEA, then 1:9 DCM:EA eluted product) to give tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropylcarbamate (0.043 g, 100% yield) as a yellow residue. LC/MS (APCI+) m/z 500.1 [M+H]−; Rf: 2.68.

reactant | HBTU | 0.086 mmol, 0.033 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.086 mmol, 0.025 g | Cl.Cl.C[C@@H]1CCC=2N=CN=C(C21)N2CCNCC2
reactant | (S)-3-(tert-butoxycarbonylamino)-2-(4-chlorophenyl)propanoic acid | 0.086 mmol, 0.026 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)O)C1=CC=C(C=C1)Cl | C14H18ClNO4
reactant | DIEA | 0.26 mmol, 0.045 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 1.2 mL | C(Cl)Cl | CH2Cl2
solvent | EA | CC(OCC)=O | C4H8O2
product | tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropylcarbamate | 0.043 g, 100% yield | ClC1=CC=C(C=C1)[C@@H](CNC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C | C26H34ClN5O3
